US04695648
(a) 5-(2-(1-Chlorophenyl)-acetyl)-2-methoxy-benzeneacetic acid
17 g of 2-chloro-benzeneacetic acid, 10 ml of thionyl chloride, 0.5 ml of dimethyl formamide and 150 ml of methylene chloride are boiled for 6 hours. The solution is evaporated, and the residue is dissolved in 18 g of methyl 2-methoxy-benzeneacetate and 50 ml of methylene chloride. The resultant solution is added dropwise to a solution of 50 ml tin chloride in 250 ml methylene chloride. The solution is boiled for 24 hours, poured onto ice water, extracted with chloroform, dried and treated with active carbon. The chloroform solution is evaporated and the residue is recrystallized from ethanol. Hydrolysis of the crystals in 200 ml of 1M sodium hydroxide is followed by dilution with water and 50 ml ethanol to a volume of about 300 ml, whereupon the solution is acidified with acetic acid while boiling. It is then cooled, and the crystals are filtered off.

reactant | 2-chloro-benzeneacetic acid | 17 g | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethyl formamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-(2-(1-Chlorophenyl)-acetyl)-2-methoxy-benzeneacetic acid | ClC1(CC=CC=C1)CC(=O)C=1C=CC(=C(C1)CC(=O)O)OC | C17H17ClO4
